US08193236B2
(5-Dimethylaminomethyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester
To a solution of (1-acetyl-5-bromomethyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester (378 mg, 0.93 mmol) in THF (16.0 mL) is added a 33% solution of dimethylamine in ethanol (8.0 mL). The resulting reaction mixture is stirred for 15 h at room temperature, followed by removal of the volatiles in vacuo. The residue is purified by flash column chromatography (silica gel, CH2Cl2/MeOH 9:1) to afford the title compound as a yellow solid (303 mg, 0.92 mmol, 99%). 1H NMR (400 MHz, CDCl3, 298 K): δ=12.31 (s, 1H), 7.71 (s, 1H), 7.59 (d, J=8.6 Hz, 1H), 7.42 (d, J=8.6 Hz, 1H), 4.15 (q, J=7.1 Hz, 2H), 4.11 (s, 2H), 3.90 (s, 2H), 2.64 (s, 6H), 1.24 (t, J=7.1 Hz, 3H). MS (ES+): 329 (M(C16H19F3N2O2)+H)+.

reactant | (1-acetyl-5-bromomethyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester | 0.93 mmol, 378 mg | C(C)OC(CC1=C(N(C2=CC=C(C=C12)CBr)C(C)=O)C(F)(F)F)=O | C16H15BrF3NO3
reactant | dimethylamine | CNC | C2H7N
solvent | THF | 16.0 mL | C1CCOC1 | C4H8O
solvent | ethanol | 8.0 mL | C(C)O | C2H6O
product | (5-Dimethylaminomethyl-2-trifluoromethyl-1H-indol-3-yl)-acetic acid ethyl ester | 0.92 mmol, 303 mg, 99% | C(C)OC(CC1=C(NC2=CC=C(C=C12)CN(C)C)C(F)(F)F)=O | C16H19F3N2O2
